US08183250B2
3-aminomethyl-4H-pyrazolo[1,5-a]quinazolin-5-one
A suspension of 1.5 g of 3-cyano-4H-pyrazolo[1,5-a]quinazolin-5-one in 150 mL of 20% ammonia in methanol was shaken with 15 g of aqueous Raney nickel at ambient temperature under 60 psi of hydrogen for 70 minutes. The suspension was diluted with 150 mL of methanol and warmed to dissolve the precipitated product. Filtration through a nylon membrane and concentration of the filtrate yielded the title compound. MS (ESI) m/z 198 (M+H—NH3)+.

reactant | 3-cyano-4H-pyrazolo[1,5-a]quinazolin-5-one | 1.5 g | C(#N)C=1C=NN2C1NC(C1=CC=CC=C21)=O | C11H6N4O
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 150 mL | N | H3N
solvent | methanol | CO | CH4O
catalyst | Raney nickel | 15 g | [Ni] | Ni
solvent | methanol | 150 mL | CO | CH4O
product | 3-aminomethyl-4H-pyrazolo[1,5-a]quinazolin-5-one | NCC=1C=NN2C1NC(C1=CC=CC=C21)=O | C11H10N4O
